reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](/[N+:2](=[C:3](/[C+:4]([O-:5])[O-:6])[H:13])[H:11])([H:8])([H:9])[H:10].[C:7]([H:12])([H:14])([H:15])[H:16]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],66.42572124014889
[O:1]=[C:2]1[C:3]([H:8])([H:9])[C@@:4]2([H:11])[C@:5]([H:10])([O:6]2)[C:7]1([H:12])[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5](=[O:6])[C:7]1([H:12])[H:13],68.1342037599119
[C:1]([C:2](=[C:3]([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])=[C:6]([O:7][H:11])[H:15]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],28.344207866835596
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O+:6]=[C-:5][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],117.028620834566
[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7].[C:3]([O:4][H:12])[H:11],83.7010604358733
[N:1]([C@@:2]1([O:3][H:13])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],23.444669210670995
[C:1]([H:6])([H:7])([H:8])[H:9].[C:2]1[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12])([H:6])([H:7])[H:8],13.339188468155427
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:5]([N:4]([H:13])[H:14])=[N:6]1)([H:10])[H:11])([H:7])([H:8])[H:9],94.4453770434825
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([C:3](=[O:4])[H:12])=[C:5](/[O:6][H:11])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],50.659761669689104
[C:1](=[O:2])([H:8])[H:10].[C:3](=[C:4]([O:5][H:9])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],45.29961457116409
[C:1]([C+:2]=[C:4]=[N-:5])([H:6])([H:7])[H:8].[C:3]([H:9])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],5.720725503298198
[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N+:2]([C:3]([C:5]#[N:6])([H:11])[H:12])([C-:4]([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],109.546426076744
[C:1](/[C:2](=[C:3](/[C:4]([H:13])([H:14])[H:15])[H:12])[H:10])([H:7])([H:8])[H:9].[C:5](=[C:6]([H:18])[H:19])([H:16])[H:17].[H:11][H:20]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],43.908545316409416
[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4](=[C:5]=[N:6][H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],78.4892618040313
[C:1]([C:2]([O:3][H:11])=[C:4]([H:12])[H:13])([H:8])([H:9])[H:10].[O:5]([C:6]#[C:7][H:15])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],68.26020050124801
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[C-:3]([O:4][H:7])=[C:5]=[C+:6][H:8].[O+:1]#[C-:2],54.8453944236883
[C:3](=[C:4]=[C:5]([H:8])[H:12])([H:10])[H:11].[O:1]=[C:2]([C:6]#[C:7][H:13])[H:9]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],33.37247584997307
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([O:5][H:10])[N:6]([H:14])[H:15])([H:7])([H:8])[H:9],84.19532249042369
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N+:2](=[C-:3][N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],47.697357507788105
[C:1]([C:2]([O+:3]=[C-:4][H:10])([H:7])[H:8])([H:5])([H:6])[H:9]>>[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[O:3][C:4]1([H:9])[H:10],38.28252615874191
[C:1]([O:4][C:3](=[C:2]([H:11])[H:12])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],76.80832457776712
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[N:3]([H:10])[O:6][C:5]([H:7])([H:12])[N:4]1[H:11])([H:8])[H:9],126.689839851294
[C:1]([C:2]([O:6][C:5](=[C:3]=[O:4])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],70.04752334841979
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O-:1][C:2]1=[C:6]([H:11])[N+:4](=[C:5]([H:9])[H:10])[C:3]1([H:7])[H:8],55.7980282919026
[C:1]([C:2](=[C:6]=[C:7]([O:5][C:4](=[O:3])[H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],42.55510813955824
